US07700591B2
tert-Butyl 1-[1-(acetyloxy)ethyl]-3,3-dimethoxycyclopentanecarboxylate (8.04 g, 25.4 mmol) was dissolved in anhydrous 4N HCl in dioxane (ca. 50 mL) and 5 mL of water was added (this was a mistake which led to inadvertent hydrolysis of the acetate). The reaction mixture was stirred at rt for 5 h, then was concentrated. Purification by flash chromatography (silica, 8% methanol/DCM) afforded 1-(1-hydroxyethyl)-3-oxocyclopentanecarboxylic acid.

reactant | tert-Butyl 1-[1-(acetyloxy)ethyl]-3,3-dimethoxycyclopentanecarboxylate | 25.4 mmol, 8.04 g | C(C)(=O)OC(C)C1(CC(CC1)(OC)OC)C(=O)OC(C)(C)C | C16H28O6
reactant | acetate | C(C)(=O)[O-]
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | ca. 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | 1-(1-hydroxyethyl)-3-oxocyclopentanecarboxylic acid | OC(C)C1(CC(CC1)=O)C(=O)O | C8H12O4
